US05453514
0.7 ml of 4N-hydrochloric acid-1,4-dioxane solution were dropwise added to a solution of 484 mg of 4-acetyl-3,5-dimethyl-1H-pyrazole-1-carboxamidine in 1 ml of ethanol and 5 ml of ether. The crystals precipitated out were taken out by filtration to obtain 488 mg of 4-acetyl-3,5-dimethyl-1H-pyrazole-1-carboxamidine hydrochloride.

reactant | hydrochloric acid 1,4-dioxane | Cl.O1CCOCC1
reactant | 4-acetyl-3,5-dimethyl-1H-pyrazole-1-carboxamidine | 484 mg | C(C)(=O)C=1C(=NN(C1C)C(=N)N)C | C8H12N4O
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ether | 5 ml | CCOCC | C4H10O
product | 4-acetyl-3,5-dimethyl-1H-pyrazole-1-carboxamidine hydrochloride | 488 mg | Cl.C(C)(=O)C=1C(=NN(C1C)C(=N)N)C | InChI=1S/C8H12N4O.ClH/c1-4-7(6(3)13)5(2)12(11-4)8(9)10;/h1-3H3,(H3,9,10);1H
